US07790709B2
Preparation of (E)-N-(4-Acetylamino-benzyl)-3-(6-amino-pyridin-3-yl)-N-methyl-acrylamide
According to the procedure of Example 1 (a), except substituting N-(4-methylaminomethyl-phenyl)acetamide for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(6-amino-pyridin-3-yl)acrylic acid for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound was prepared as a pale yellow solid (200 mg, 25%): 1H NMR (300 MHz, DMSO-d6) δ 9.93 (s, 1H), 8.15-8.13 (m, 1H), 7.86-7.79 (m, 1H), 7.54-7.39 (m, 3H), 7.15 (s, 2H), 7.03-6.93 (m, 1H), 6.46 (s, 3H), 4.70-4.53 (m, 2H), 3.04-2.87 (m, 3H), 2.02 (s, 3H); MS (ESI) m/e 325 (M+H)+.

reactant | N-(4-methylaminomethyl-phenyl)acetamide | CNCC1=CC=C(C=C1)NC(C)=O | C10H14N2O
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(6-amino-pyridin-3-yl)acrylic acid | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(4-Acetylamino-benzyl)-3-(6-amino-pyridin-3-yl)-N-methyl-acrylamide | C(C)(=O)NC1=CC=C(CN(C(\C=C\C=2C=NC(=CC2)N)=O)C)C=C1 | C18H20N4O2
